US07179819B2
To a stirred solution of N-Boc-2-S)-hydoxymethyl-5-(R)-methylpyrrolidine (820 mg, 3.81 mmol), triphenylphosphine (1.10 g, 4.19 mmol) and methyl 4-hydroxybenzoate (580 mg, 3.81 mmol) was added diisopropyl azodicarboxylate (841 ml, 4.19 mmol) at rt, and the resulting mixture was stirred at 60° C. for 1 h. The mixture was concentrated in vacuo, and the residue was chromatographed on silica gel with hexane-EtOAc (5:1) as eluent to give methyl 4-[N-Boc-5-(R)-methyl-2-(S)-pyrrolidinylmethoxy]benzoate (1.32 g, 80%) as a colorless oil. 1H-NMR (CDCl3) δ 1.24 (br s, 3 H), 1.49 (s, 9 H), 1.55–1.70 (m, 2 H), 1.94–2.11 (m, 2 H), 3.88 (s, 3 H), 3.88 (overlap, 1H), 4.06–4.20 (m, 2H), 6.93–6.96 (m, 2H), 7.97 (d, J=8.8 Hz, 2 H); MS (ESI) m/z, 350 (M++H).

reactant | hydoxymethyl-5-(R)-methylpyrrolidine | 3.81 mmol, 820 mg | OCN1CCC[C@H]1C | C6H13NO
reactant | triphenylphosphine | 4.19 mmol, 1.10 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methyl 4-hydroxybenzoate | 3.81 mmol, 580 mg | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | diisopropyl azodicarboxylate | 4.19 mmol, 841 ml | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
product | methyl 4-[N-Boc-5-(R)-methyl-2-(S)-pyrrolidinylmethoxy]benzoate | 1.32 g, 80% | C(=O)(OC(C)(C)C)N1[C@@H](CC[C@H]1C)COC1=CC=C(C(=O)OC)C=C1 | C19H27NO5
